US09416141B2
Step 4: tert-Butyl N-[3-(3-carbamoyl-2-{[(4-chlorophenyl)carbamoyl]amino}-4H,5H,6H,7H-thieno[2,3-c]pyridin-6-yl)propyl]carbamate (F)
A solution of 2-[3-(4-Chlorophenyl)ureido]-4,5,6,7-tetrahydrothieno[2,3-c]pyridine-3-carboxamide trifluoroacetate (0.48 mmol) in anhydrous DMF was treated with triethyl amine (200 μL, 1.43 mmol) and N-Boc-bromopropylamine (114 mg, 0.48 mmol) and the reaction mixture was allowed to stir at room temperature for 14 h. Analytical HPLC showed close to 50% progression. Another 100 μL of triethyl amine and 70 mg of N-Boc-bromopropylamine were added and the reaction mixture was stirred at room temperature. Upon completion (48 h), DMF was removed under vacuo and the resultant crude mixture was diluted with DCM and washed with water (×2). The organic layer was dried (anhydrous Na2SO4) and concentrated to afford an oil which was purified by flash chromatography Isolera system (SiO2 gel as stationary phase, 40 g HP column, dry loading) using DCM-DCM/MeOH (0%-15% MeOH in DCM) to afford the title compound as a light brown solid (144 mg, 60% yield). 1H NMR (300 MHz, dmso-d6) δ 10.95 (s, 1H), 10.18 (s, 1H), 7.55-7.43 (m, 2H), 7.37-7.27 (m, 2H), 6.82 (s, 1H), 3.53-3.43 (m, 2H), 3.03-2.90 (m, 2H), 2.85-2.57 (m, 4H), 2.50-2.40 (m, 2H), 1.69-1.53 (m, 2H), 1.37 (s, 9H). LRMS [M+H]508.

reactant | 2-[3-(4-Chlorophenyl)ureido]-4,5,6,7-tetrahydrothieno[2,3-c]pyridine-3-carboxamide trifluoroacetate | 0.48 mmol | FC(C(=O)O)(F)F.ClC1=CC=C(C=C1)NC(NC1=C(C2=C(CNCC2)S1)C(=O)N)=O
reactant | triethyl amine | 1.43 mmol, 200 μL | C(C)N(CC)CC | C6H15N
reactant | N-Boc-bromopropylamine | 0.48 mmol, 114 mg | C(=O)(OC(C)(C)C)NCCCBr | C8H16BrNO2
reactant | triethyl amine | 100 μL | C(C)N(CC)CC | C6H15N
reactant | N-Boc-bromopropylamine | 70 mg | C(=O)(OC(C)(C)C)NCCCBr | C8H16BrNO2
solvent | DMF | CN(C)C=O | C3H7NO
product | tert-Butyl N-[3-(3-carbamoyl-2-{[(4-chlorophenyl)carbamoyl]amino}-4H,5H,6H,7H-thieno[2,3-c]pyridin-6-yl)propyl]carbamate | 144 mg, 60% yield | C(N)(=O)C1=C(SC=2CN(CCC21)CCCNC(OC(C)(C)C)=O)NC(NC2=CC=C(C=C2)Cl)=O | C23H30ClN5O4S
